US05200417
1-(Benzylamino)isoquinoline
1-Chloroisoquinoline (1.64 g, 0.01 mol) and benzylamine (2.14 g, 0.02 mol) were mixed at room temperature and heated, with stirring, in an oil-bath at 50° for 4 hours. The mixture was cooled to give a crystalline solid which was equilibrated between methylene chloride (CH2Cl2) and aqueous Na2CO3. The CH2Cl2 fraction was washed with water, dried and evaporated to dryness to give an oil which crystallised on standing (3.0 g). This material was twice re-crystallised from ether/40-60 petroleum ether to give the title compound as buff crystals, m.p. 101°-102°.

reactant | 1-Chloroisoquinoline | 0.01 mol, 1.64 g | ClC1=NC=CC2=CC=CC=C12 | C9H6ClN
reactant | benzylamine | 0.02 mol, 2.14 g | C(C1=CC=CC=C1)N | C7H9N
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 1-(Benzylamino)isoquinoline | C(C1=CC=CC=C1)NC1=NC=CC2=CC=CC=C12 | C16H14N2
